US04354973
4-[2-Benzoyl-4-chlorophenyl]-1H-pyrrole-3-carbonitrile
A mixture of 10.7 g (40 mmole) of 3-(2-benzoyl-4-chlorophenyl)-2-propenenitrile, 5.3 g (38 mmole) of tosylmethyl isocyanide, 75 ml of dimethyl sulfoxide and 150 ml of ether was added dropwise to a suspension of 3.7 g (77 mmole) of 50% sodium hydride in mineral oil and 170 ml of ether. When the addition was complete stirring was continued for 2 hr. The mixture was diluted with water and the ether layer was separated. The aqueous solution was extracted with ether. The combined ether extracts were washed with water, dried over anhydrous sodium sulfate; and concentrated at reduced pressure to give a dark green oil. Purification by column chromatography (800 g silica gel; eluent 5% ether in methylene chloride) gave end product as off-white prisims, mp 175°-177°.

reactant | 3-(2-benzoyl-4-chlorophenyl)-2-propenenitrile | 40 mmole, 10.7 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)C=CC#N | C16H10ClNO
reactant | tosylmethyl isocyanide | 38 mmole, 5.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | dimethyl sulfoxide | 75 ml | CS(=O)C | C2H6OS
reactant | sodium hydride | 77 mmole, 3.7 g | [H-].[Na+]
solvent | water | O | H2O
solvent | ether | 170 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 4-[2-Benzoyl-4-chlorophenyl]-1H-pyrrole-3-carbonitrile | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)C=1C(=CNC1)C#N | C18H11ClN2O
